US04001244
2.0 Parts of 6-benzyloxy-N-(2-diisopropylamino-ethyl)-7-methoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide is dissolved in approximately 80 parts of methanol. 0.2 Part of a 5% palladium-on-carbon catalyst is added and the mixture is shaken at room temperature and a pressure of about 2 psi for approximately 23 hours or until one molecular equivalent of hydrogen has been absorbed. The catalyst is removed by filtration and the filtrate is concentrated under reduced pressure to give an oil which solidified upon trituration with n-pentane. That solid is crystallized from a mixture of methylene chloride and n-hexane to afford N-(2-diisopropylaminoethyl)-6-hydroxy-7-methoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide, melting at about 91°-92°C.

reactant | 6-benzyloxy-N-(2-diisopropylamino-ethyl)-7-methoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide | C(C1=CC=CC=C1)OC=1C=C2CCN(C(C2=CC1OC)C1=CC=CC=C1)C(=O)NCCN(C(C)C)C(C)C | C32H41N3O3
reactant | n-pentane | CCCCC | C5H12
solvent | methanol | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N-(2-diisopropylaminoethyl)-6-hydroxy-7-methoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide | C(C)(C)N(CCNC(=O)N1C(C2=CC(=C(C=C2CC1)O)OC)C1=CC=CC=C1)C(C)C | C25H35N3O3
